US04112112
To 2-carbamoyl-11-(3-dimethylaminopropylidene)-11H-pyrrolo[2,1-b][3]benzazepine (0.112 moles) in 300 ml. of 50% sulfuric acid maintained at 50° C. is added slowly 25 g. of sodium nitrite in 75 ml. of water. At the end of the addition, the solid is filtered, washed with water and air-dried to yield 2-carboxy-11-(3-dimethylaminopropylidene)-11H-pyrrolo[2,1-b][3]benzazepine.

reactant | 2-carbamoyl-11-(3-dimethylaminopropylidene)-11H-pyrrolo[2,1-b][3]benzazepine | 0.112 moles | C(N)(=O)C=1C=C2C(C3=C(C=CN2C1)C=CC=C3)=CCCN(C)C | C19H21N3O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 2-carboxy-11-(3-dimethylaminopropylidene)-11H-pyrrolo[2,1-b][3]benzazepine | C(=O)(O)C=1C=C2C(C3=C(C=CN2C1)C=CC=C3)=CCCN(C)C | C19H20N2O2
